US07074796B2
1e, 4-[4-(3-Chlorophenyl)piperazin-1-yl]-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one
from 1-(3-chlorophenyl)piperazine, dihydrochloride and 4-chloro-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one. Mp 102–107° C. 1H NMR (DMSO-d6): 1.75–1.85 (m, 2H); 2.35 (t, 2H); 2.45–2.55 (m, 6H); 3.10–3.20 (m, 6H); 4.10 (t, 2H); 6.75 (d, 1H); 6.85 (d, 1H); 6.90 (s, 1H); 6.95 (t, 1H); 7.10 (t, 1H); 7.15–7.25 (m, 2H); 8.10 (d, 1H). MS m/z: 384 (MH+), 265, 188.

reactant | 1-(3-chlorophenyl)piperazine, dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | 4-chloro-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one | ClCCCC(=O)N1CCC2=CC=CC=C12 | C12H14ClNO
product | 4-[4-(3-Chlorophenyl)piperazin-1-yl]-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one | ClC=1C=C(C=CC1)N1CCN(CC1)CCCC(=O)N1CCC2=CC=CC=C12 | C22H26ClN3O
